US04092362
750 ml of absolute methanol was introduced into a 2 liter flask. 17.3 g of sodium were added thereto. 580 g of methyl acetoacetate and 456 g of 2-pentyl-cyclopent-2-en-1-one were then added and the mixture was allowed to stand for 48 hours at the ambient temperature. The reaction product was neutralised with 45 g of acetic acid and then poured into 3 liters of a 10% aqueous sodium chloride solution. The product was then worked up as described in Example 1 (a). There were thus obtained 567 g (yield = 70%) of 2-n-pentyl-(1-carbomethoxy-2-oxopropyl)-1-cyclopentanone having: nD20 = 1.4702, d420 = 1.0545.

reactant | sodium | 17.3 g | [Na] | Na
reactant | methyl acetoacetate | 580 g | C(CC(=O)C)(=O)OC | C5H8O3
reactant | 2-pentyl-cyclopent-2-en-1-one | 456 g | C(CCCC)C=1C(CCC1)=O | C10H16O
reactant | sodium chloride | [Cl-].[Na+]
solvent | acetic acid | 45 g | C(C)(=O)O | C2H4O2
solvent | methanol | 750 ml | CO | CH4O
product | 2-n-pentyl-(1-carbomethoxy-2-oxopropyl)-1-cyclopentanone | 567 g, yield = 70% | C(CCCC)C1(C(CCC1)=O)C(C(C)=O)C(=O)OC | C15H24O4
